US06562849B1
5-(4-[6-[2-(4-Aminophenyl)ethoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl)thiazolidine-2,4-dione
A solution of t-butyl N-[5-[2-(4-t-butoxycarbonylaminophenyl)ethoxy]-2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]phenyl]-N-methylcarbamate (18.2 g) in trifluoroacetic acid (100 ml) was stirred at 70° C. for 3.5 hours. The reaction mixture was concentrated, diluted with water, neutralized with sodium bicarbonate and extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated. The residue was chromatographed on a silica gel column using ethyl acetate as the eluant to afford the desired compound (9.2 g, mp 184-188° C.).

reactant | t-butyl N-[5-[2-(4-t-butoxycarbonylaminophenyl)ethoxy]-2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]phenyl]-N-methylcarbamate | 18.2 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCOC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)NC(COC1=CC=C(C=C1)CC1C(NC(S1)=O)=O)=O | C37H44N4O9S
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(4-[6-[2-(4-Aminophenyl)ethoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl)thiazolidine-2,4-dione | 9.2 g | NC1=CC=C(C=C1)CCOC=1C=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C1 | C27H26N4O4S
